US08461328B2
A solution of trans (4-tert-butoxycarbonylamino-cyclohexyloxy)-acetic acid ethyl ester (720 mg, 2.40 mmol) in methanol (18 mL) and water (6 mL) as treated with lithium hydroxide monohydrate (210 mg, 5.00 mmol) and stirred at ambient temperature for 2.25 hours. Methanol was removed under vacuum and the residue partitioned between ethyl acetate and 1M HCl. The phases were separated and the aqueous phase extracted into ethyl acetate (2×). The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated under vacuum to afford 600 mg (92%) of trans (4-tert-butoxycarbonylamino-cyclohexyloxy)-acetic acid as a white solid. LCMS (Method Q, ESI): RT=2.96 min, m+H=296.0; 1H NMR (400 MHz, CDCl3) δ: 4.38 (br s, 1H), 4.12 (s, 2H), 3.41 (m, 2H), 2.04 (m, 4H), 1.44 (m, 11H), 1.15 (m, 2H).

reactant | trans (4-tert-butoxycarbonylamino-cyclohexyloxy)-acetic acid ethyl ester | 2.40 mmol, 720 mg | C(C)OC(CO[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)=O | C15H27NO5
reactant | lithium hydroxide monohydrate | 5.00 mmol, 210 mg | O.[OH-].[Li+]
solvent | methanol | 18 mL | CO | CH4O
solvent | water | 6 mL | O | H2O
product | trans (4-tert-butoxycarbonylamino-cyclohexyloxy)-acetic acid | 600 mg, 92% | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OCC(=O)O | C13H23NO5
